US07208506B2
2,4-Dichlorobenzoyl chloride (53 μL, 0.375 mmol) was added to a mixture of potassium carbonate (69 mg, 0.5 mmol) and (E)-2-thiophen-2-yl-ethenesulfonic acid amide (47 mg, 0.25 mmol) in 1,4-dioxane (1.5 mL) at ambient temperature. The mixture was heated at 80° C. for 16 hours then allowed to cool to room temperature whereupon 1N HCl (2 mL) was added in one portion. The mixture was extracted with ethyl acetate (2 mL) and the organics were dried with MgSO4, filtered and concentrated in vacuo. The resultant residue was purified by preparative HPLC to afford (E)-2-thiophen-2-yl-ethenesulfonic acid 2,4-dichloro-benzoylamide (26.3 mg, 29%).

reactant | 2,4-Dichlorobenzoyl chloride | 0.375 mmol, 53 μL | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | potassium carbonate | 0.5 mmol, 69 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-2-thiophen-2-yl-ethenesulfonic acid amide | 0.25 mmol, 47 mg | S1C(=CC=C1)/C=C/S(=O)(=O)N | C6H7NO2S2
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | (E)-2-thiophen-2-yl-ethenesulfonic acid 2,4-dichloro-benzoylamide | 26.3 mg, 29% | ClC1=C(C(=O)NS(=O)(=O)\C=C\C=2SC=CC2)C=CC(=C1)Cl | C13H9Cl2NO3S2
